US07223788B2
N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-4-(5-fluoropyridin-2-yloxy)benzamide
2-Chloro-5-fluoropyridine was reacted with N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-4-hydroxybenzamide by method R. This resulted in the product with the molecular weight of 420.2 (C24H25FN4O2); MS (ESI): 421 (M+H+) as hydrotrifluoroacetate.

reactant | 2-Chloro-5-fluoropyridine | ClC1=NC=C(C=C1)F | C5H3ClFN
reactant | N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-4-hydroxybenzamide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)O)=O)C | C19H23N3O2
product | N-[4-(3-Dimethylaminopyrrolidin-1-yl)phenyl]-4-(5-fluoropyridin-2-yloxy)benzamide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)OC1=NC=C(C=C1)F)=O)C | C24H25FN4O2
